US07902184B2
6-(4-Ethyl-piperazin-1-yl)-pyrimidin-4-ylamine
A mixture of 1 g (7.7 mmol) 4-amino-6-chloropyrimidine (commercially available) and 1.75 g (15.4 mmol) 1-ethyl piperazine (commercially available) in 10 mL toluene was heated to 110° C. for 16 h. After evaporation of all volatiles the residue was purified by flash column chromatography on silica eluting with a gradient formed from DCM (0.5% NEt3) and methanol. The combined product fractions were evaporated to dryness to yield the title compound. MS (m/e): 208.3 (MH+).

reactant | 4-amino-6-chloropyrimidine | 7.7 mmol, 1 g | NC1=NC=NC(=C1)Cl | C4H4ClN3
reactant | 1-ethyl piperazine | 15.4 mmol, 1.75 g | C(C)N1CCNCC1 | C6H14N2
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 6-(4-Ethyl-piperazin-1-yl)-pyrimidin-4-ylamine | C(C)N1CCN(CC1)C1=CC(=NC=N1)N | C10H17N5
